US06891066B2
To a stirring solution of the product of Example 1, Step D, 2-[(4-ethyl-2-fluorophenyl)amino]-3,4-difluorobenzoic acid (0.480 g, 1.626 mmol) in dichloromethane (25 mL) is added to the product of Example 31, Step D, (R)-O-(2,2-dimethyl-[1,3]dioxan-4-ylmethyl)-hydroxylamine (0.38 g, 2.57 mmol), triethylamine (0.54 mL, 3.85 mmol), and benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (1.34 g, 2.57 mmol) and allowed to stir at ambient temperature for 90 minutes. The reaction mixture was concentrated in vacuo and the affording residue was partitioned between ethyl acetate and water. The organic layers were washed twice with saturated sodium carbonate solution and twice with brine. The organic layer was collected, dried over sodium sulfate, filtered and concentrated in vacuo. N-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide was isolated via silica column chromatography in 4:1 hexanes/ethyl acetate, then 3:1 hexanes/ethyl acetate affording a white foam (0.515 g, 56.7%).

reactant | 2-[(4-ethyl-2-fluorophenyl)amino]-3,4-difluorobenzoic acid | 1.626 mmol, 0.480 g | C(C)C1=CC(=C(C=C1)NC1=C(C(=O)O)C=CC(=C1F)F)F | C15H12F3NO2
reactant | (R)-O-(2,2-dimethyl-[1,3]dioxan-4-ylmethyl)-hydroxylamine | 2.57 mmol, 0.38 g | CC1(OCC[C@@H](O1)CON)C | C7H15NO3
reactant | triethylamine | 3.85 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 2.57 mmol, 1.34 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide | CC1(OC[C@@H](O1)CONC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)CC)F)=O)C | C21H23F3N2O4
